US04587538
2-(4'-N-(4"-methoxyphenyl)aminophenyl)-3-phenyl-1,2,3,4-tetrahydroquinazolin-4-one
2-(4'-chlorophenyl)-3-phenyl-1,2,3,4-tetrahydroquinazoline was prepared by the method of Example 1 but substituting 4-chlorobenzaldehyde for the 4-dimethylaminobenzaldehyde used in Example 1. The crude product had a melting point of 177° C. 0.5 g (0.0015 mol)of this compound and 0.18 g (0.005 mol) p-anisidine were fused together at 120 to 140° C. for about 1 hr. The product was the title compound as a white solid having a melting point of 116° C. This compound was imaged on CF paper, as described above, and gave an intense yellow coloration. The UV-visible spectrum of the coloured form of this compound showed peaks at 416 nm and 349 nm (relative intensity 0.98).

reactant | 4-chlorobenzaldehyde | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | 4-dimethylaminobenzaldehyde | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | p-anisidine | 0.005 mol, 0.18 g | COC1=CC=C(C=C1)N | C7H9NO
product | 2-(4'-chlorophenyl)-3-phenyl-1,2,3,4-tetrahydroquinazoline | ClC1=CC=C(C=C1)C1NC2=CC=CC=C2CN1C1=CC=CC=C1 | C20H17ClN2
